### PR TITLE
[Merged by Bors] - feat(Data/Int): inequality related to sqrt

### PR DESCRIPTION
**Pull request by wwylele**
These are similar to `Nat.sqrt_le` and `Nat.sqrt_le'`, with extra absolute value needed for integers.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 1]
```diff
@@ -31,4 +31,17 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
...
   exact Int.ofNat_le.symm
 
+/-! ### Integer sqrt -/
+
+theorem abs_le_sqrt {a b : ℤ} (hn : 0 ≤ b) :
+    |a| ≤ b.sqrt ↔ a * a ≤ b := by
+  rw [← abs_mul_abs_self]
+  rw [show b = b.toNat from eq_natCast_toNat.mpr hn]
+  rw [show |a| = |a|.toNat by simp]
+  rw [Int.sqrt_natCast, ← Int.natCast_mul, Nat.cast_le, Nat.cast_le, Nat.le_sqrt]
```
Comment (themathqueen) [inline Mathlib/Data/Int/Order/Lemmas.lean]:
```suggestion
  rw [← abs_mul_abs_self, eq_natCast_toNat.mpr hn, eq_natCast_toNat.mpr (abs_nonneg a),
    Int.sqrt_natCast, ← Int.natCast_mul, Nat.cast_le, Nat.cast_le, Nat.le_sqrt]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

Thanks!

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
